US04670441
A mixture of 33.6 g (0.2 mol) of 3-hydroxy-4-methoxybenzoic acid and 26.8 g (0.4 mol) of potassium hydroxide (85%) in 200 ml of toluene and 200 ml of dimethyl sulfoxide is dewatered at 140° C. in a sulfonating flask equipped with a water separator. The toluene is distilled off and the mixture is then cooled to 90° C. and 43 g (0.2 mol) of 3,4-dichlorobenzotrifluoride, 1.1 g of potassium iodide and 0.2 g of copper filings in 20 ml of dimethyl sulfoxide are added. The mixture is kept for 30 hours at 150° C. and the solvent is then distilled off under a high vacuum. The residue is dissolved in 250 ml of water, the solution is filtered, the filtrate is acidified with 100 ml of 2N HCl in 200 g of ice and the precipitate obtained is filtered with suction, then washed with water and vacuum-dried at 80° C., affording 58 g of 3-(2-chloro-4-trifluoromethylphenoxy)-4-methoxybenzoic acid. Melting point 162°-165° C.

reactant | 3-hydroxy-4-methoxybenzoic acid | 0.2 mol, 33.6 g | OC=1C=C(C(=O)O)C=CC1OC | C8H8O4
reactant | potassium hydroxide | 0.4 mol, 26.8 g | [OH-].[K+]
reactant | water | O | H2O
reactant | 3,4-dichlorobenzotrifluoride | 0.2 mol, 43 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
catalyst | copper | 0.2 g | [Cu] | Cu
catalyst | potassium iodide | 1.1 g | [I-].[K+]
product | 3-(2-chloro-4-trifluoromethylphenoxy)-4-methoxybenzoic acid | 58 g | ClC1=C(OC=2C=C(C(=O)O)C=CC2OC)C=CC(=C1)C(F)(F)F | C15H10ClF3O4
